US08283353B2
2-(5-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile
A mixture of 2-(5-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile (0.69 g), 3N hydrochloric acid (20 mL) and tetrahydrofuran (20 mL) was stirred at 70° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (5 mL) and methanol (5 mL), sodium borohydride (0.076 g) was added, and the mixture was stirred at room temperature for 1 hr. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.41 g, 63%).

reactant | 2-(5-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile | 0.69 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(S2)C2=C(C#N)C=CC=C2)CCC)N=CN1 | C28H29N5O3S
reactant | hydrochloric acid | 3N, 20 mL | Cl | ClH
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile | 0.41 g, 63% | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(S1)C1=C(C#N)C=CC=C1)CCC)N=CN2 | C26H27N5O2S
